US04416880
2-(5-Methylisoxazol-3-ylidene)-3-oxo-4-chlorobutyric acid ethyl ester
79.5 g of 5-methylisoxazole-3-aldehyde were reacted with 4-chloroacetoacetic acid ethyl ester as described in Example 24. A crude product, which was chromatographically pure, was obtained. This isomer ratio was 2:1.

reactant | 5-methylisoxazole-3-aldehyde | 79.5 g | CC1=CC(=NO1)C=O | C5H5NO2
reactant | 4-chloroacetoacetic acid ethyl ester | C(C)OC(CC(=O)CCl)=O | C6H9ClO3
product | 2-(5-Methylisoxazol-3-ylidene)-3-oxo-4-chlorobutyric acid ethyl ester | C(C)OC(C(C(CCl)=O)=C1NOC(=C1)C)=O | C10H12ClNO4
